US09108938B2
2,3-Dichloro-N-[2-(2-methylpyrimidin-5-yl)-2-morpholino-ethyl]benzamide
From 2,3-dichlorobenzoic acid and 2-(2-methyl-pyrimidin-5-yl)-2-morpholin-4-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-methyl-pyrimidin-5-yl)-2-morpholin-4-yl-ethylamine | CC1=NC=C(C=N1)C(CN)N1CCOCC1 | C11H18N4O
product | 2,3-Dichloro-N-[2-(2-methylpyrimidin-5-yl)-2-morpholino-ethyl]benzamide | ClC1=C(C(=O)NCC(N2CCOCC2)C=2C=NC(=NC2)C)C=CC=C1Cl | C18H20Cl2N4O2
